US06316450B1
3-(4-Methylpiperazin-1-yl)-4-methoxybenzene sulfonyl chloride (D2)
2-(4-Methylpiperazin-1-yl)anisole (200 mg, 1 mmol) was added in portions over ten minutes to ice-cooled, stirred chlorosulfonic acid (1.2 ml) under argon. The resulting brown solution was stirred at 0° C. for 0.25 h and then at ambient temperature for a further 1.25 h. The solution was slowly poured onto crushed ice (50 g). Dichloromethane (50 ml) was added to the mixture followed by saturated sodium carbonate solution until pH10 was attained in the aqueous phase. The layers were separated and the aqueous phase further extracted with dicholoromethane. The combined organic phases were dried (Na2SO4) and concentrated to an oil. The oil was stirred with hexane (4 ml) to give the title compound as a cream solid (210 mg, 71%).

reactant | 2-(4-Methylpiperazin-1-yl)anisole | 1 mmol, 200 mg | CN1CCN(CC1)C1=C(C=CC=C1)OC | C12H18N2O
reactant | chlorosulfonic acid | 1.2 ml | ClS(=O)(=O)O | ClHO3S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | pH10 | CC1=CC=C(C=C1)COC(=O)NNC(=O)C2=NC=CN=C2 | C14H14N4O3
solvent | Dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-(4-Methylpiperazin-1-yl)-4-methoxybenzene sulfonyl chloride | 210 mg, 71% | CN1CCN(CC1)C=1C=C(C=CC1OC)S(=O)(=O)Cl | C12H17ClN2O3S
